US08420690B2
c) N-((1S)-2-amino-1-{[2-(trifluoromethyl)phenyl]methyl}ethyl)-5-(1-methyl-1H-pyrazol-5-yl)-3-thiophenecarboxamide
To a solution of N-((1S)-2-(1,3-dioxo-1,3-dihydro-2H-isoindol-2-yl)-1-{[2-(trifluoromethyl)phenyl]methyl}ethyl)-5-(1-methyl-1H-pyrazol-5-yl)-3-thiophenecarboxamide (74 mg, 0.14 mmol) in MeOH/THF (2 mL, 1:1) at RT was added hydrazine (86 μL, 2.75 mmol). After stirring for 18 h at RT, the reaction solution was concentrated under vacuum and purified via column chromatography (silica, 3% MeOH in DCM (1% NH4OH)) yielding the title compound.

reactant | N-((1S)-2-(1,3-dioxo-1,3-dihydro-2H-isoindol-2-yl)-1-{[2-(trifluoromethyl)phenyl]methyl}ethyl)-5-(1-methyl-1H-pyrazol-5-yl)-3-thiophenecarboxamide | 0.14 mmol, 74 mg | O=C1N(C(C2=CC=CC=C12)=O)C[C@H](CC1=C(C=CC=C1)C(F)(F)F)NC(=O)C1=CSC(=C1)C1=CC=NN1C | C27H21F3N4O3S
reactant | hydrazine | 2.75 mmol, 86 μL | NN | H4N2
solvent | MeOH THF | 2 mL | CO.C1CCOC1
product | N-((1S)-2-amino-1-{[2-(trifluoromethyl)phenyl]methyl}ethyl)-5-(1-methyl-1H-pyrazol-5-yl)-3-thiophenecarboxamide | NC[C@H](CC1=C(C=CC=C1)C(F)(F)F)NC(=O)C1=CSC(=C1)C1=CC=NN1C | C19H19F3N4OS
